US09290517B2
Step B: 1-(4-bromo-3-fluoro-phenyl)imidazolidine-2,4-dione
To a solution of ethyl 2-(4-bromo-3-fluoro-anilino)acetate (86 g, 0.31 mol) in acetic acid (1.5 L) and water (100 mL) was added a solution of potassium cyanate (50 g, 0.6 mol) in water (200 mL). The reaction mixture was stirred at room temperature for 12 h and then evaporated to dryness. Then 1.5 L of 25% HCl was added to the residue and the mixture was heated to reflux for 3 h. After cooling to room temperature, the solid was filtered and dried to give the title compound. LC-MS: calculated for C9H6BrFN2O2 271.96 observed m/e: 273.35 (M+H)+ (Rt 3.44/6.5 min).

reactant | ethyl 2-(4-bromo-3-fluoro-anilino)acetate | 0.31 mol, 86 g | BrC1=C(C=C(NCC(=O)OCC)C=C1)F | C10H11BrFNO2
reactant | potassium cyanate | 0.6 mol, 50 g | [O-]C#N.[K+]
solvent | acetic acid | 1.5 L | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 1-(4-bromo-3-fluoro-phenyl)imidazolidine-2,4-dione | BrC1=C(C=C(C=C1)N1C(NC(C1)=O)=O)F | C9H6BrFN2O2
